US09422281B2
Pyridine (5.09 μL, 0.063 mmol) was added to a solution of isopropyl (S)-4-acetyl-6-amino-7-(1-cyclopropyl-1H-pyrazol-4-yl)-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate (0.010 g, 0.025 mmol) in dichloromethane (200 μL). Methylcarbamic chloride (0.003 g, 0.030 mmol) was added, and the reaction stirred at rt for 18 h. The reaction mixture was concentrated and ethyl acetate was added. The solution was washed with 1 N aqueous HCl, and the organic phase was separated and concentrated. The residue was purified by mass triggered preparatory HPLC. The product-containing fractions were combined and concentrated in a Genevac to afford isopropyl (S)-4-acetyl-7-(1-cyclopropyl-1H-pyrazol-4-yl)-3-methyl-6-(3-methylureido)-3,4-dihydroquinoxaline-1(2H)-carboxylate. MS (ESI, pos. ion) m/z 455 [M+H]+.

reactant | Pyridine | 0.063 mmol, 5.09 μL | N1=CC=CC=C1 | C5H5N
reactant | isopropyl (S)-4-acetyl-6-amino-7-(1-cyclopropyl-1H-pyrazol-4-yl)-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate | 0.025 mmol, 0.010 g | C(C)(=O)N1[C@H](CN(C2=CC(=C(C=C12)N)C=1C=NN(C1)C1CC1)C(=O)OC(C)C)C | C21H27N5O3
reactant | Methylcarbamic chloride | 0.030 mmol, 0.003 g | CNC(=O)Cl | C2H4ClNO
solvent | dichloromethane | 200 μL | ClCCl | CH2Cl2
product | isopropyl (S)-4-acetyl-7-(1-cyclopropyl-1H-pyrazol-4-yl)-3-methyl-6-(3-methylureido)-3,4-dihydroquinoxaline-1(2H)-carboxylate | C(C)(=O)N1[C@H](CN(C2=CC(=C(C=C12)NC(=O)NC)C=1C=NN(C1)C1CC1)C(=O)OC(C)C)C | C23H30N6O4
